US06987114B1
1-(Cyclopropyl)methyl-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and bromomethyl cyclopropane were reacted by the same way with the example 1 to obtain the titled compound (158 mg, yield: 46.4%).

reactant | 5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C16H18N2O3
reactant | bromomethyl cyclopropane | BrCC1CC1 | C4H7Br
product | 1-(Cyclopropyl)methyl-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 158 mg, yield: 46.4% | C1(CC1)CN1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)C(C)C)=O)=O | C20H24N2O3
